US06583155B2
B. 5-Chloro-3-(1-{2-hydroxy-3-[4-pyridin-4-yl-3-(4-trifluoromethyl-phenyl)-pyrazol-1-yl]-propyl}-piperidin4-yl)-1-methyl-1,3-dihydro-benzoimidazol-2-one
To a solution of 4-[1-oxiranylmethyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-pyridine (68 mg, 0.197 mmol) and 5-chloro-1-methyl-3-piperidin-4-yl-1,3-dihydro-benzoimidazol-2-one (0.055 g, 0.207 mmol) in EtOH (1 mL) was added triethylamine (0.027 mL, 0.197 mmol). The reaction mixture was heated at 80° C. overnight, concentrated, and purified by column chromatography (silica, 2-10% MeOH/CH2Cl2) to afford the title compound (0.026 g, 22%). MS (electrospray): exact mass calculated for C31H30ClF3N6O2, 611.2 [M+H]+, m/z found, 611.2. 1H NMR (400 MHz, CDCl3): 8.59 (br s, 2H), 8.20 (s, 1H), 7.67 (d, J=8.2 Hz, 2H), 7.61 (d, J=5.9 Hz, 2H), 7.55 (d, J=8.2 Hz, 2H), 7.35 (br s, 1H), 7.09 (dd, J=8.2,1.8 Hz, 1H), 6.89 (d, J=8.2 Hz, 1H), 4.55-4.60 (m, 2H), 4.39 (d, J=14.2, 4.1 Hz, 1H), 4.31 (d, J=14.2, 6.1 Hz, 1H), 3.80-3.90 (m, 2H), 3.37 (s, 3H), 3.18-3.33 (m, 2H), 3.02-3.17 (m, 2H), 2.77-2.95 (m, 2H), 1.99 (t, J=12.4 Hz, 2H).

reactant | 4-[1-oxiranylmethyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-pyridine | 0.197 mmol, 68 mg | O1C(C1)CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(C=C1)C(F)(F)F | C18H14F3N3O
reactant | 5-chloro-1-methyl-3-piperidin-4-yl-1,3-dihydro-benzoimidazol-2-one | 0.207 mmol, 0.055 g | ClC1=CC2=C(N(C(N2C2CCNCC2)=O)C)C=C1 | C13H16ClN3O
reactant | triethylamine | 0.197 mmol, 0.027 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 1 mL | CCO | C2H6O
product | 5-Chloro-3-(1-{2-hydroxy-3-[4-pyridin-4-yl-3-(4-trifluoromethyl-phenyl)-pyrazol-1-yl]-propyl}-piperidin4-yl)-1-methyl-1,3-dihydro-benzoimidazol-2-one | 0.026 g, 22% | ClC1=CC2=C(N(C(N2C2CCN(CC2)CC(CN2N=C(C(=C2)C2=CC=NC=C2)C2=CC=C(C=C2)C(F)(F)F)O)=O)C)C=C1 | C31H30ClF3N6O2
